US05135972
A mixture is prepared by adding 136.4 grams (1.1 moles) of p-methoxyphenol, 173 grams (1 mole) of 4-nitrophthalonitrile, and 207 grams of potassium carbonate in 1667 ml of dimethylformamide. The mixture is heated to 70° C. and mechanically stirred. Samples are taken of this reaction mixture periodically and analyzed by GLC. After five hours, the reaction is complete. The p-methoxyphenoxyphthalonitrile is isolated by quenching the crude reaction mixture in ice water. The product is further purified by washing the crude precipitate with dilute sodium carbonate and then water. Finally the p-methoxyphenoxyphthalonitrile is vacuum dried at 60° C.

reactant | p-methoxyphenol | 1.1 moles, 136.4 grams | COC1=CC=C(C=C1)O | C7H8O2
reactant | 4-nitrophthalonitrile | 1 mole, 173 grams | [N+](=O)([O-])C=1C=C(C(C#N)=CC1)C#N | C8H3N3O2
reactant | potassium carbonate | 207 grams | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 1667 ml | CN(C=O)C | C3H7NO
product | p-methoxyphenoxyphthalonitrile | COC=1C(=C(C(C#N)=CC1)C#N)OC1=CC=CC=C1 | C15H10N2O2
